US07119207B2
7-Methoxy-1-methyl-3,4-dihydro-1H-quinolin-2-one
Under nitrogen, combined 3.2 g of 7-Hydroxy-3,4-dihydro-1H-quinolin-2-one (0.0196 mol) with 25 ml of THF. Added 5.1 g of potassium t-butoxide (0.0451 mol) and stirred for 1.25 hours. Added 4.3 ml of dimethyl sulfate (0.0451 mol), followed by 10 ml of THF and stirred overnight. The reaction mixture was diluted with EtOAc and extracted three times with H2O, dried (MgSO4), and evaporated under reduced pressure. Purified by chromatography on Biotage Flash 40, eluting with 3:1 Hexanes/EtOAc to give 1.7 g of white solid (45%). 1H NMR (400 MHz, CDCl3) δ 2.62 (2H, q, J=5.39 Hz), 2.83 (2H, q, J=6.85 Hz), 3.32 (3H, s), 3.81 (3H, s), 6.53 (1H, d, J=2.49 Hz), 6.54 (1H, d, J=1.87 Hz), 7.05 (1H, d, J=7.68 Hz). M/z (APCI+) 192.1 (M+1). HPLC (aqueous 200 mM ammonium acetate buffer/acetonitrile gradient, 3.0 ml/min, Hewlett Packard ODS Hypersil 5 uM, 125×4 mm column) 4.068.

reactant | ammonium acetate | 200 mM | C(C)(=O)[O-].[NH4+]
reactant | Hypersil | 5 uM | CO[C@H]1[C@@H](C[C@@H]2CN3CCC4=C([C@H]3C[C@@H]2[C@@H]1C(=O)OC)NC5=C4C=CC(=C5)OC)OC(=O)C6=CC(=C(C(=C6)OC)OC)OC | C33H40N2O9
solvent | acetonitrile | C(C)#N | C2H3N
product | 7-Methoxy-1-methyl-3,4-dihydro-1H-quinolin-2-one | COC1=CC=C2CCC(N(C2=C1)C)=O | C11H13NO2
